US05262540
Sodium metal (1.00 g, 43 mg atom) was dissolved in ethanol (125 mL) and 3-(4-hydroxyphenyl)propionic acid (6.04 g, 36 mmol) added to give a white precipitate. The mixture was warmed briefly with stirring and concentrated H2SO4 (3 drops) added followed by 2-bromo-2-phenylacetophenone (1.00 g, 36 mmol). The mixture was heated at reflux for 2 hours, cooled, concentrated and diluted with water. The mixture was extracted with CH2Cl2, the combined extracts dried over sodium sulfate and concentrated to give an oil which was dissolved in acetic acid (250 mL). Ammonium acetate (14.00 g, 180 mmol) was added and the mixture heated to reflux. After 100 minutes, the solution was cooled, diluted with water and extracted with CH2Cl2. The combined extracts were dried over sodium sulfate and the solvent evaporated to leave a solid that was triturated with a mixture of hexanes and diethyl ether and filtered to give 4-[2 -(4,5-diphenyl-2-oxazolyl)ethyl]phenol (8.00 g, 64%). An analytical sample was prepared by recrystallizing 1.5 g from a mixture of hexanes and CH2Cl2 to give 1.20 g of pure material, m.p. 142°-144° C.

reactant | Sodium | 1.00 g | [Na] | Na
reactant | 3-(4-hydroxyphenyl)propionic acid | 36 mmol, 6.04 g | OC1=CC=C(C=C1)CCC(=O)O | C9H10O3
reactant | 2-bromo-2-phenylacetophenone | 36 mmol, 1.00 g | BrC(C(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C14H11BrO
reactant | Ammonium acetate | 180 mmol, 14.00 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 125 mL | C(C)O | C2H6O
catalyst | H2SO4 | 3 drops | OS(=O)(=O)O | H2O4S
solvent | acetic acid | 250 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4-[2 -(4,5-diphenyl-2-oxazolyl)ethyl]phenol | 8.00 g, 64% | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CCC1=CC=C(C=C1)O | C23H19NO2
